US09328067B2
3-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfinyl}methyl)-N-[2-(pyrrolidin-1-yl)ethyl]benzamide
Following General Procedure R, the title compound (17 mg, 19%) was prepared from 3-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfinyl}methyl)benzoic acid (76 mg, 0.14 mmol), 2-(pyrrolidin-1-yl)ethanamine (26 μl, 0.21 mmol), EDC (53 mg, 0.28 mmol) and DMAP (cat.) in DMF (2 ml).

reactant | 3-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfinyl}methyl)benzoic acid | 0.14 mmol, 76 mg | ClC1=CC(=C(C=C1)S(=O)CC=1C=C(C(=O)O)C=CC1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C21H14Cl2F3NO5S2
reactant | 2-(pyrrolidin-1-yl)ethanamine | 0.21 mmol, 26 μl | N1(CCCC1)CCN | C6H14N2
reactant | EDC | 0.28 mmol, 53 mg
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 3-({[4-chloro-2-({[4-chloro-3-(trifluoromethyl)phenyl]sulfonyl}amino)phenyl]sulfinyl}methyl)-N-[2-(pyrrolidin-1-yl)ethyl]benzamide | 17 mg, 19% | ClC1=CC(=C(C=C1)S(=O)CC=1C=C(C(=O)NCCN2CCCC2)C=CC1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C27H26Cl2F3N3O4S2
